US05421971
The reactor in this Example consisted of a 1.25 inch diameter pyrex tube heated by means of electrical heating tape and an internal thermocouple to measure the temperature inside the tube. The reactor was packed with a mixture of 50 cm3 of 0.5% Pd/Al2O3 (1/8 inch pellets) and 100 cm3 of glass helices for a total bed volume of 150 cm3. The Pd/A12O3 pellets are available from Aldrich Chemical or Engelhard Industries. Effluent from the reactor was condensed into cold traps maintained at -30° C. and -78° C. Hydrogen was passed into the tube at 155 mL/min, while CF3CF2CC12CC12CF2CF3 was metered into the top of the vertically mounted reactor at a rate of about 10 g/h. The temperature inside the reactor during the reduction was 202°-206° C. After a total reaction time of 3.75 h (38.1 g total CF3CF2CC12CC12CF2CF3 added), 20.15 g of product was collected in the cold traps, which was 99% pure according to GC analysis. The product was identified as CF3CF2CH2CH2CF2CF3 (boiling point 66° C., 80% yield) based on nuclear magnetic resonance and mass spectroscopy analysis.

reactant | Hydrogen | [H][H] | H2
reactant | CF3CF2CC12CC12CF2CF3 | C(F)(F)(F)C(F)(F)C(Cl)(Cl)C(Cl)(Cl)C(F)(F)C(F)(F)F | C6Cl4F10
reactant | CF3CF2CC12CC12CF2CF3 | 38.1 g | C(F)(F)(F)C(F)(F)C(Cl)(Cl)C(Cl)(Cl)C(F)(F)C(F)(F)F | C6Cl4F10
catalyst | Pd | [Pd] | Pd
product | CF3CF2CH2CH2CF2CF3 | 80% yield | C(F)(F)(F)C(F)(F)CCC(F)(F)C(F)(F)F | C6H4F10
